US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(imidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (7.00 g) in dimethylformamide (35 ml) was added 3-allyloxycarbonylamino-l-iodopropane (4.26 g) and the solution was warmed to 50° C. After stirring at the same temperature for 8 hours, the solution was cooled to room temperature. The solvent was evaporated and the residue was washed with diisopropyl ether (175 ml×5) to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-[2-[3-{3-(allyloxycarbonylamino)propyl}-1-imidazolio]ethyl]-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (10.4 g) as a light brown paste. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(imidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 7.00 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C=NC=C1 | C26H34N4O6S
reactant | 3-allyloxycarbonylamino-l-iodopropane | 4.26 g | C(C=C)OC(=O)NCCCI | C7H12INO2
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-[2-[3-{3-(allyloxycarbonylamino)propyl}-1-imidazolio]ethyl]-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 10.4 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[N+]1=CN(C=C1)CCCNC(=O)OCC=C | InChI=1S/C33H45N5O8S.HI/c1-6-16-44-31(41)28-29(22(4)27-26(23(5)39)30(40)38(27)28)47-25-19-24(37(20-25)33(43)46-18-8-3)10-13-36-15-14-35(21-36)12-9-11-34-32(42)45-17-7-2;/h6-8,14-15,21-27,39H,1-3,9-13,16-20H2,4-5H3;1H/t22-,23-,24-,25+,26-,27-;/m1./s1
